US03998853
A further preparation employed 1,3-butadiene-2,3-dicarbonitrile in a condensation reaction with 9-oxatricyclo[4.2.12,5.0]non-3-ene-1,6-dicarbonitrile utilizing methylene chloride as diluent under room temperature conditions and a contacting time of about 5 days. By this method, a conversion of about 50 percent was obtained based on the 9-oxatricyclo[4.2.12,5.0]non-3-ene-1,6-dicarbonitrile, resulting in nearly 100 percent ultimate yields of 13-oxatetracyclo[8.2.12,9.0.03,8 ]tridec-5-ene-1,5,6,10-tetracarbonitrile.

reactant | 1,3-butadiene-2,3-dicarbonitrile | C=C(C(=C)C#N)C#N | C6H4N2
reactant | non-3-ene-1,6-dicarbonitrile | C(CC=CCC(CCC)C#N)C#N | C11H16N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tridec-5-ene-1,5,6,10-tetracarbonitrile | C(CCCC(=C(CCCC(CCC)C#N)C#N)C#N)C#N | C17H22N4
